US06440995B1
(RS)-1-Amino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride
The title compound, m.p. 291-294° C., MS: m/e=294.3 (M+H+), was prepared from 4-chloro-2-phenyl-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-phenyl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)O | InChI=1S/C18H19N3O.ClH/c19-11-14(22)12-20-18-10-17(13-6-2-1-3-7-13)21-16-9-5-4-8-15(16)18;/h1-10,14,22H,11-12,19H2,(H,20,21);1H
